US04514416
To 40 ml of anhydrous pyridine, was added 2.1 g of 6-guanidinocaproic acid hydrochloride. To the mixture, while being cooled in ice, was added 2.5 g of DCC. The mixture was stirred for one hour, admixed with 2.6 g of 4-amidino-2-methoxyphenol methanesulfonate, and further stirred overnight at room temperature. After addition of ethyl ether to the reaction mixture, the supernatant was removed to obtain an oily substance as the residue. The oily substance was dissolved in DMF, then freed from insolubles by filtration, and mixed with ethyl ether to obtain 4.0 g of a colorless oily substance. This substance was dissolved in water by heating, then treated with activated carbon, and mixed with acetone to isolate 3.5 g of 4-amidino-2-methoxyphenyl 6-guanidinocaproate methanesulfonate hydrochloride in the form of colorless oil.

reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
reactant | 6-guanidinocaproic acid hydrochloride | 2.1 g | Cl.N(C(=N)N)CCCCCC(=O)O
reactant | DCC | 2.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-methoxyphenol methanesulfonate | 2.6 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)OC | C9H12N2O4S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-amidino-2-methoxyphenyl 6-guanidinocaproate methanesulfonate hydrochloride | 3.5 g | Cl.CS(=O)(=O)O.N(C(=N)N)CCCCCC(=O)OC1=C(C=C(C=C1)C(N)=N)OC | InChI=1S/C15H23N5O3.CH4O3S.ClH/c1-22-12-9-10(14(16)17)6-7-11(12)23-13(21)5-3-2-4-8-20-15(18)19;1-5(2,3)4;/h6-7,9H,2-5,8H2,1H3,(H3,16,17)(H4,18,19,20);1H3,(H,2,3,4);1H
